US08349880B2
Step J (4): Methanolic ammonia (2.0 M, 5 mL, 10 mmol) was added to a flask charged with 4-chloro-1-(2,6-difluoro-4-isothiocyanatophenyl)-1H-imidazole (195 mg, 0.718 mmol). After 3 h, the reaction mixture was concentrated to dryness in vacuo to afford 1-(4-(4-chloro-1H-imidazol-1-yl)-3,5-difluorophenyl)thiourea (207 mg, 100% yield) as a white solid. LC-MS (M+H)+ 289.2

reactant | ammonia | 10 mmol, 2.0 M, 5 mL | N | H3N
reactant | 4-chloro-1-(2,6-difluoro-4-isothiocyanatophenyl)-1H-imidazole | 0.718 mmol, 195 mg | ClC=1N=CN(C1)C1=C(C=C(C=C1F)N=C=S)F | C10H4ClF2N3S
product | 1-(4-(4-chloro-1H-imidazol-1-yl)-3,5-difluorophenyl)thiourea | 207 mg, 100% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1F)NC(=S)N)F | C10H7ClF2N4S
